US08563717B2
Intermediate 28: 2-(Butyloxy)-9-[2-(1-ethyl-2-piperidinyl)ethyl]-8-(methyloxy)-9H-purin-6-amine
A portion of the solution (3 ml) containing 2-(butyloxy)-8-(methyloxy)-9-[2-(2-piperidinyl)ethyl]-9H-purin-6-amine (approx 140 mg, 0.402 mmol) was treated with ethyl iodide (0.032 ml, 0.402 mmol) and DIPEA (0.140 ml, 0.804 mmol). The reaction was stirred at ambient temperature in a capped vial overnight. Methanol was added to give solution and this was purified by MDAP (Method A). Product fractions were evaporated under N2 in a Radleys blow down unit. The title compound was obtained as a white solid (103 mg).

reactant | 2-(butyloxy)-8-(methyloxy)-9-[2-(2-piperidinyl)ethyl]-9H-purin-6-amine | 0.402 mmol, approx 140 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1NCCCC1)OC)N | C17H28N6O2
reactant | ethyl iodide | 0.402 mmol, 0.032 ml | C(C)I | C2H5I
reactant | DIPEA | 0.804 mmol, 0.140 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | Methanol | CO | CH4O
product | 2-(Butyloxy)-9-[2-(1-ethyl-2-piperidinyl)ethyl]-8-(methyloxy)-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1N(CCCC1)CC)OC)N | C19H32N6O2
